US03939267
The starting material is prepared as follows: The mixture of 14 g of 4-chloro-3-nitro-5-sulfamoylbenzoic acid, 200 ml of 1N aqueous sodium bicarbonate and 15.9 g of 4-acetamidophenol is heated to about 95°-100°C for 21 hours while stirring under nitrogen. It is cooled to room temperature and made strongly acidic with concentrated hydrochloric acid. The precipitate formed is filtered off, to yield the 4-(4-acetamidophenoxy)-3-nitro-5-sulfamoylbenzoic acid, which after trituration with aqueous ethanol melts at 293° with decomposition.

reactant | 4-chloro-3-nitro-5-sulfamoylbenzoic acid | 14 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | 4-acetamidophenol | 15.9 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium bicarbonate | 1N, 200 ml | C([O-])(O)=O.[Na+]
product | 4-(4-acetamidophenoxy)-3-nitro-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)[N+](=O)[O-])C=C1 | C15H13N3O8S
